US07750163B2
5.1 1-Benzyl-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate salt
Disodium 2,3-dimethyl-3-(4-sulphonatobutyl)-3H-indole-5-sulphonate (5 g, 13.9 mmol) and sodium acetate (3.11 g) were stirred with methanol (100 ml) for 1 hour. Solvent removed by rotary evaporation and a further portion of methanol (100 ml) added. This was removed by rotary evaporation to yield an orange sticky solid. To this was added sulfolan (25 ml) and benzyl bromide (9.51 g, 55.6 mmol, 4 eq). The mixture was stirred overnight at 110° C. under a blanket of nitrogen. The cooled red solution was poured into stirring ethyl acetate (1 l) and the precipitate filtered off. The precipitate washed with copious ethyl acetate and diethyl ether and then dried under vacuum. A sample was dissolved in water and analysed by reverse Phase TLC using acetonitrile modified with 0.1% TFA: water modified with 0.1% TFA (30:70). Separation yielded the product (Rf 0.6) and starting material (Rf 0.95). The product spot turned red on standing indicating quaternisation had taken place. Yield: 8 g.

reactant | Disodium 2,3-dimethyl-3-(4-sulphonatobutyl)-3H-indole-5-sulphonate | 13.9 mmol, 5 g | CC1=NC2=CC=C(C=C2C1(CCCCS(=O)(=O)[O-])C)S(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium acetate | 3.11 g | C(C)(=O)[O-].[Na+]
reactant | sulfolan | 25 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | benzyl bromide | 55.6 mmol, 9.51 g, 4 eq | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 ml | CO | CH4O
product | 1-Benzyl-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate | C(C1=CC=CC=C1)[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)[O-])(CCCCS(=O)(=O)O)C)C | C21H25NO6S2
